* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : Diver                                        *
* Netlisted  : Thu Dec 11 17:43:36 2025                     *
* PVS Version: 23.11-s036 Wed Jan 17 18:11:41 PST 2024      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_765493012010                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_765493012010 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_765493012010

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v_CDNS_765493012010                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v_CDNS_765493012010 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 1 g45p1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=121.853 scb=0.0675097 scc=0.0140235 $X=0 $Y=0 $dt=1
.ends pmos1v_CDNS_765493012010

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v_CDNS_765493012011                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v_CDNS_765493012011 1 2 3
** N=3 EP=3 FDC=1
M0 2 3 1 1 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=9.72117 scb=0.00853087 scc=0.000206786 $X=0 $Y=0 $dt=0
.ends nmos1v_CDNS_765493012011

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: Diver                                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt Diver a b gnd vdd
** N=5 EP=4 FDC=4
X0 a M1_PO_CDNS_765493012010 $T=1260 -2440 0 0 $X=1160 $Y=-2560
X1 2 M1_PO_CDNS_765493012010 $T=2200 -2440 0 0 $X=2100 $Y=-2560
X2 vdd 2 a gnd pmos1v_CDNS_765493012010 $T=1340 -2060 0 0 $X=920 $Y=-2260
X3 vdd b 2 gnd pmos1v_CDNS_765493012010 $T=2270 -2060 0 0 $X=1850 $Y=-2260
X4 gnd 2 a nmos1v_CDNS_765493012011 $T=1340 -3070 0 0 $X=920 $Y=-3630
X5 gnd b 2 nmos1v_CDNS_765493012011 $T=2270 -3070 0 0 $X=1850 $Y=-3630
.ends Diver
